US07572794B2
4-oxo-piperidine-1-carboxylic acid (4-{[2-(2-methyl-2H-indazol-6-ylcarbamoyl)-phenylamino]-methyl}-pyridin-2-yl)-amide (50 mg, 0.1 mmol) in dry THF under argon, at −78° C. was treated dropwise with methyllithium (1.5M in diethylether, 0.2 mL, 0.3 mmol). The reaction was stirred for 30 minutes at −78° C. before warming to rt. The reaction was stirred overnight before partitioning between EtOAc and saturated aqueous ammonium chloride solution. The organic phase was washed with brine, dried, filtered and concentrated in vacuo. The residue was purified by chromatography on Isolute® Flash silica gel (Separtis) (Gradient elution: 100% CH2Cl2 to CH2Cl2/EtOH 10:2) to give 4-hydroxy-4-methyl-piperidine-1-carboxylic acid (4-{[2-(2-methyl-2H-indazol-6-ylcarbamoyl)-phenylamino]-methyl}-pyridin-2-yl)-amide (12 mg, 23%) as a solid; 1H-NMR (300 MHz, d6-DMSO) 10.13 (1H, s), 9.02 (1H, s), 8.25 (1H, s), 8.13 (1H, d), 8.10 (1H, s), 7.94 (1H, t), 7.80 (1H, s), 7.72 (1H, d), 7.64 (1H, d), 7.23-7.32 (2H, m), 6.92 (1H, d), 6.66 (1H, t), 6.54 (1H, d), 4.43 (2H, d), 4.31 (1H, s), 4.13 (3H, s), 3.68-3.74 (2H, m), 3.16-3.25 (2H, m), 1.35-1.46 (4H, m), 1.12 (3H, s); m/z (ES+) 514 [M+H]+.

reactant | 4-oxo-piperidine-1-carboxylic acid (4-{[2-(2-methyl-2H-indazol-6-ylcarbamoyl)-phenylamino]-methyl}-pyridin-2-yl)-amide | 0.1 mmol, 50 mg | CN1N=C2C=C(C=CC2=C1)NC(=O)C1=C(C=CC=C1)NCC1=CC(=NC=C1)NC(=O)N1CCC(CC1)=O | C27H27N7O3
reactant | methyllithium | 0.3 mmol, 1.5M, 0.2 mL | C[Li]
solvent | THF | C1CCOC1 | C4H8O
product | 4-hydroxy-4-methyl-piperidine-1-carboxylic acid (4-{[2-(2-methyl-2H-indazol-6-ylcarbamoyl)-phenylamino]-methyl}-pyridin-2-yl)-amide | 12 mg, 23% | CN1N=C2C=C(C=CC2=C1)NC(=O)C1=C(C=CC=C1)NCC1=CC(=NC=C1)NC(=O)N1CCC(CC1)(C)O | C28H31N7O3
